US04927919
Synthesis of N-trifluoroacetyl-β-amino-isobutyric acid
To 2.0 ml of trifluoroacetic anhydride was added 300 mg of β-amino-isobutyric acid in small portions, and the resulting mixture was stirred at 0° C. for 30 minutes and then subjected to reaction with stirring at room temperature for 3 hours.

reactant | trifluoroacetic anhydride | 2.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | β-amino-isobutyric acid | 300 mg | NCC(C(=O)O)C | C4H9NO2
product | N-trifluoroacetyl-β-amino-isobutyric acid | FC(C(=O)NCC(C(=O)O)C)(F)F | C6H8F3NO3
